US06710064B2
To a solution of Na (0.25 g) (0.011 mol) in 3 mL of MeOH was added 4-bromobenzyl mercaptan (2.2 g) (0.011 mol). The reaction mixture was stirred for 1 h. Trans-N-Boc-4-methanesulfonyloxy-L-proline methyl ester (1.2 g) (0.0037 mol) (Preparation 9) was added and the mixture refluxed for 18 hrs. Upon cooling to RT, 40 mL of water was added and the mixture was extracted with EtOAc. The aqueous layer was acidified with 1 N HCl and extracted with DCM. The combined organic extracts were washed with water, dried over MgSO4, and the solvent evaporated in vacuo to afford cis-N-Boc-4-(4-bromobenzyl thio)-L-proline (1.08 g). NMR (CDCl3, 200 MHz): 10.65 (1H, COOH), 7.4 (2H, d), 7.15 (2H, d), 4.15-4.35 (1H, m), 3.65 (2H, s), 2.95-3.35 (2H, m), 2.4-2.6 (1H, m), 1.85-2.2 (1H, m), 1.3-1.5 (9H). To a solution of cis-N-Boc-4-(4-bromobenzyl thio)-L-proline (1.08 g) in 10 mL of MeOH was added dropwise SOCl2 (0.2 mL), and the mixture was stirred for 72 hrs at RT. The solvent was evaporated under reduced pressure and the residue dissolved in DCM. The organic layer was washed with dilute aqueous NaHCO3, water, and dried over MgSO4. The solvent was evaporated in vacuo to afford cis-4-(4-bromo-benzylthio)-L-proline methyl ester (0.6 g).

reactant | cis-N-Boc-4-(4-bromobenzyl thio)-L-proline | 1.08 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)C[C@@H](C1)SCC1=CC=C(C=C1)Br | C17H22BrNO4S
reactant | SOCl2 | 0.2 mL | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 10 mL | CO | CH4O
product | cis-4-(4-bromo-benzylthio)-L-proline methyl ester | 0.6 g | COC([C@H]1NC[C@H](C1)SCC1=CC=C(C=C1)Br)=O | C13H16BrNO2S
